US07709645B2
2-amino-5-bromo-N,N-dimethyl-benzamide (1.48 g, 6.09 mmol) was dissolved in a mixture of dichloromethane (60 mL) and saturated aqueous sodium bicarbonate (60 mL). 16 mL of 20% w/w phosgene in toluene was added and the mixture stirred at room temperature for 30 min. The layers were separated and the aqueous layer extracted three times with dichloromethane (20 mL). The combined organic layers were dried over sodium sulfate and evaporated. The residue was concentrated down several times from ether and dichloromethane to afford 5-bromo-2-isocyanato-N,N-dimethyl-benzamide as a yellow power. 1H-NMR (250 MHz, d6-DMSO) δ 7.95 (d, J=2.4 Hz, 1H), 7.80 (dd, J=6.3, 2.7 Hz, 1H), 7.16 (d, J=8.88 Hz, 1H), 3.10 (s, 6H).

reactant | 2-amino-5-bromo-N,N-dimethyl-benzamide | 6.09 mmol, 1.48 g | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-isocyanato-N,N-dimethyl-benzamide | BrC=1C=CC(=C(C(=O)N(C)C)C1)N=C=O | C10H9BrN2O2
